US09029538B2
2-Ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenylamine and 2-ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid using the procedure for example 1. mp=264-6° C.; LCMS m/z=588 (M+1); ); 1H NMR (DMSO): 11.00 (s, 1H), 8.47-8.52 (m, 2H), 7.51 (s, 1H), 7.38-7.46 (m, 5H), 7.10 (m, 1H), 6.88 (m, 1H), 6.53 (d, 1H, J=5Hz), 4.10 (q, 2H, J=7 Hz), 3.94 (s, 3H), 3.93 (s, 3H), 3.84 (s, 3H), 1.35 (t, 3H, J=7Hz).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)N)OC | C18H18N2O4
reactant | 2-ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid | C(C)N1N=C(C(N(C1=O)C1=CC=C(C=C1)F)=O)C(=O)O | C12H10FN3O4
product | 2-Ethyl-4-(4-fluoro-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)C=1C(N(C(N(N1)CC)=O)C1=CC=C(C=C1)F)=O)OC | C30H26FN5O7
